US04051152
1-Acetoxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran
A solution of 1-hydroxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran (9.07 g., 0.035 mole) and acetic anhydride (7.1 g., 0.07 mole) in 25 ml. of pyridine was warmed over a steam bath for 2 hours. The reaction mixture was allowed to cool to room temperature and pyridine was removed by evaporation under reduced pressure. Water was added to the residue and the aqueous mixture was extracted with three portions of ether. The ethereal extracts were combined, washed with water, 6N HCl, again with water, dried over Na2SO4 and concentrated under reduced pressure to 9.5 g. (90%) of a colorless solid, m.p. 115°-119° C.

reactant | 1-hydroxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran | 0.035 mole, 9.07 g | OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C | C17H22O2
reactant | acetic anhydride | 0.07 mole, 7.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Acetoxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C | C19H24O3
